US06352982B1
N-methyl-N-methyloxy-2-amino-4-chlorobenzamide (3.6 g) and N-tert-butoxycarbonyl-3-bromobenzylamine (5.5 g) were dissolved in tetrahydrofuran (50 ml). The solution was cooled to −78° C., to which was added dropwise, while stirring, a hexane solution of n-butyl lithium (1.6 mol/L, 60 ml) over 40 minutes. To the reaction mixture was added water, which was subjected to extraction with ethyl acetate (150 ml). The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off. The residue was purified by means of a silica gel column chromatography to give 2-amino-3-tert-butoxycarbonylaminomethyl-4-chlorobenzophenone as a yellow oily product (2.3 g).

reactant | N-methyl-N-methyloxy-2-amino-4-chlorobenzamide | 3.6 g | CN(C(C1=C(C=C(C=C1)Cl)N)=O)OC | C9H11ClN2O2
reactant | N-tert-butoxycarbonyl-3-bromobenzylamine | 5.5 g | C(C)(C)(C)OC(=O)NCC1=CC(=CC=C1)Br | C12H16BrNO2
reactant | hexane | CCCCCC | C6H14
reactant | n-butyl lithium | 1.6 mol/L, 60 ml | C(CCC)[Li]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-amino-3-tert-butoxycarbonylaminomethyl-4-chlorobenzophenone | NC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1CNC(=O)OC(C)(C)C)Cl | C19H21ClN2O3
